US07884207B2
An aqueous solution of 3 M HCl (3.0 mL) was added to a solution of 1-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline (prepared as described in part G, 3.16 mmol) in methanol (10 mL). A solid formed and additional methanol (10 mL) was added. The reaction was stirred at rt for 3 d and the solvent was removed in vacuo. The residue was dissolved in dichloromethane (40 mL) and saturated aqueous sodium bicarbonate (30 mL) was added so that the pH=8. The aqueous layer was extracted with dichloromethane (20 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to yield 1-{3-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}cyclohexanol (1.14 g, 98%) as a brown gum.

reactant | HCl | 3 M, 3.0 mL | Cl | ClH
reactant | 1-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinoline | 3.16 mmol | [Si](C)(C)(C(C)(C)C)OC1(CCCCC1)CCCN1C(=NC=2C=NC=3C=CC=CC3C21)COCC | C28H43N3O2Si
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 1-{3-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}cyclohexanol | 1.14 g, 98% | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC1(CCCCC1)O | C22H29N3O2
